US05095038
Trifluoroacetic acid (25 ml) was added to a 0° C. solution of methyl E-4-[7-[2-(t-butoxycarbonyl)prop-1-enyl]naphth-1-ylmethyl]-3-methoxybenzoate (6.43 g) in methylene chloride (50 ml). After stirring for 4 hours, the solvent was evaporated without heating. The residue was triturated with ether and the colorless solid filtered. The filtrate was concentrated and hexane was added to give another crop of product as a pale yellow solid. The two crops were combined and dried to give methyl E-4-[7-(2-carboxyprop-1-enyl)naphth-1-ylmethyl]-3-methoxybenzoate (4.43 g, 94%); mp 187.0°-187.5° C.; MS(EI), m/e=390(M+.).

reactant | Trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl E-4-[7-[2-(t-butoxycarbonyl)prop-1-enyl]naphth-1-ylmethyl]-3-methoxybenzoate | 6.43 g | C(C)(C)(C)OC(=O)/C(=C/C1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC)/C | C28H30O5
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | methyl E-4-[7-(2-carboxyprop-1-enyl)naphth-1-ylmethyl]-3-methoxybenzoate | 4.43 g, 94% | C(=O)(O)/C(=C/C1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC)/C | C24H22O5
